### PR TITLE
Register `ResImagAxis` properties to `fun_prop` & simplify proofs

### LINKED ISSUE #276: `fun_prop` for `ResToImagAxis.Real/Pos/EventuallyPos`
Add `fun_prop` tags to the theorems on `ResToImagAxis.Real/Pos/EventuallyPos`. Then after #269 merged and we have sorry-free proofs of `H₂_imag_axis_real` and `H₄_imag_axis_real` (and similar theorems for positivity), then this will allow us to do
```lean
theorem G_imag_axis_real : ResToImagAxis.Real G := by
  unfold G
  fun_prop

theorem G_imag_axis_pos : ResToImagAxis.Pos G := by
  unfold G
  fun_prop (disch := positivity)
```

Depends on #275

### PR DESCRIPTION
**Pull request by seewoo5**
Register `ResToImagAxis` to `fun_prop`. Also, change definition of `G` slightly as
```lean
noncomputable def G := H₂ ^ 3 * ((2 : ℝ) • H₂ ^ 2 + (5 : ℝ) • H₂ * H₄ + (5 : ℝ) • H₄ ^ 2)
```
to match with signatures in new theorems of #275 

Depends on
 
- #269 
- #275 
- #278

Note that the definition of `G` is also slightly changed, to match with the `smul` theorems.

TODO:
- [x] Replace proofs of `F_imag_axis_real` and `F_imag_axis_pos` with `fun_prop`

Closes #276

### CODE REVIEW

**Comment by seewoo5** [comment]
awaiting-review

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 1]
```diff
@@ -138,6 +188,42 @@ theorem ResToImagAxis.Pos.smul {F : ℍ → ℂ} {c : ℝ} (hF : ResToImagAxis.P
...
+@[fun_prop]
+theorem ResToImagAxis.Pos.smul' {F : ℍ → ℂ} {c : ℝ} (hF : ResToImagAxis.Pos F)
+    (hc : 0 < c) : ResToImagAxis.Pos (fun z => c • F z) := by
+  rw [Pos]
+  refine ⟨Real.smul hF.1, fun t ht ↦ ?_⟩
+  have hFreal := hF.1 t ht
+  have hFpos := hF.2 t ht
+  simp only [Function.resToImagAxis, ResToImagAxis, ht, ↓reduceDIte] at hFreal
+  simp only [Function.resToImagAxis, ResToImagAxis, ht, ↓reduceDIte] at hFpos
+  simp [ResToImagAxis, ht, mul_pos hc hFpos]
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: Do we need both `ResToImagAxis.Pos.smul'` and `ResToImagAxis.Pos.smul` (maybe the prime version is leftover from the `hmul` -> `smul` rename)? I haven't tested this, but can `fun_prop` get one from the other as they have defeq conclusions?

File: SpherePacking/ModularForms/FG.lean [hunk 2]
```diff
@@ -2,10 +2,11 @@ import Mathlib.Analysis.SpecialFunctions.Trigonometric.Basic
 import Mathlib.Order.Monotone.Defs
 
 import SpherePacking.ModularForms.Derivative
+import SpherePacking.ModularForms.Eisenstein
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/FG.lean:5]: I think this may be redundant now (transitively imported via `Derivative`)

File: SpherePacking/ModularForms/ResToImagAxis.lean (hunk 1 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/ResToImagAxis.lean]: Nevermind -- upon looking into it a bit more, it seems like `fun_prop` won’t eta‑reduce a goal like `ResToImagAxis.Pos (fun z => c • F z)` into `ResToImagAxis.Pos (c • F)` -- I suppose this is why they're both necessary?

**Review by cameronfreer — APPROVED** [review]

File: SpherePacking/ModularForms/ResToImagAxis.lean (hunk 1 above)
Comment (seewoo5) [reply SpherePacking/ModularForms/ResToImagAxis.lean]: This was indeed something I forgot to remove. I removed it back and checked `fun_prop` still works for the purposes.
